US04461907
2-Hydroxychalcone (28.5 g) was stirred with ethanol (500 ml) whilst sodium borohydride (9.45 g) was added in small portions. The solution, which turned from red to pale yellow was allowed to stand overnight at room temperature, then the solvent was evaporated off and the residue extracted with dichloromethane, washing with water. Evaporation of the solvent yielded 3-(o-hydroxyphenyl)-1-phenylpropan-1-ol (24.4 g). 1.0 g of this carbinol was dissolved in concentrated sulphuric acid, and the solution was allowed to stand at room temperature for 2 hr. The solution was poured into iced water, and the sticky orange product filtered off, washed with water, dried, and chromatographed on alumina, eluting with toluene. Evaporation of the eluate gave flavan (0.20 g), which was recrystallised from petroleum ether, b.p. 40°-60°, to give flavan m.p. 42°-43°.

reactant | 2-Hydroxychalcone | 28.5 g | OC1=C(C=CC=C1)C=CC(=O)C1=CC=CC=C1 | C15H12O2
reactant | sodium borohydride | 9.45 g | [BH4-].[Na+]
solvent | ethanol | 500 ml | C(C)O | C2H6O
product | 3-(o-hydroxyphenyl)-1-phenylpropan-1-ol | 24.4 g | OC1=C(C=CC=C1)CCC(O)C1=CC=CC=C1 | C15H16O2
